US08791132B2
To a degassed stirred solution of 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.29 mmol), 2-(dimethylamino)pyrimidine-5-boronic acid pinacol ester (129 mg, 0.578 mmol) and potassium carbonate (120 mg, 0.87 mmol) in 1,2-dimethoxyethane (4 mL)-water (2 mL) was added Pd(PPh3)4 (16 mg, 0.0147 mmol). The reaction mixture was stirred at 90° C. for 45 min. The solvent was removed under reduced pressure, residue diluted with water (20 mL) and extracted with EtOAc (50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by reverse phase HPLC to yield 5-(2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)cyclopent-1-enyl)-N,N-dimethylpyrimidin-2-amine. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.8 (d, 2H), 7.3 (s, 1H), 6.98-7.1 (m, 2H), 4.7 (m, 1H), 4.38 (m, 1H), 3.8 (m, 1H), 3.5 (m, 1H), 2.78-3.1 (m, 15H), 2.4 (s, 3H), 2.2 (m, 2H).

reactant | 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.29 mmol, 100 mg | BrC1=C(CCC1)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C18H21BrN2
reactant | 2-(dimethylamino)pyrimidine-5-boronic acid pinacol ester | 0.578 mmol, 129 mg | CN(C1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1)C | C12H20BN3O2
reactant | potassium carbonate | 0.87 mmol, 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2 mL | O | H2O
solvent | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.0147 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)cyclopent-1-enyl)-N,N-dimethylpyrimidin-2-amine | CN1CC2=C(N(C=3C=CC(=CC23)C)C2=C(CCC2)C=2C=NC(=NC2)N(C)C)CC1 | C24H29N5
